### PR TITLE
[Merged by Bors] - feat: port Data.Complex.Basic

### PR DESCRIPTION
**Pull request by siddhartha-gadgil**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Complex/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1382 @@
...
+
+/-- Complex numbers consist of two `real`s: a real part `re` and an imaginary part `im`. -/
+structure Complex : Type where
+  re : ℝ
+  im : ℝ
+#align complex Complex
+
+-- Porting note: added as lemmas were not recognized as coercions
+attribute [coe] Complex.re
+attribute [coe] Complex.im
```
Comment (jcommelin) [inline Mathlib/Data/Complex/Basic.lean:37]: We don't want these projections to be coercions, right?

Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:37]: Thanks. Removed these.

They did seem wrong to me, but
I had put them in so `norm_cast` was recognized in at least some cases, but with the other approach of `ofReal'` with `coe` attribute these have no need.

Comment (jcommelin) [reply Mathlib/Data/Complex/Basic.lean:37]:
```suggestion
```

File: Mathlib/Data/Complex/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1379 @@
...
+#align complex.range_re Complex.range_re
+
+@[simp]
+theorem range_im : range im = univ :=
+  im_surjective.range_eq
+#align complex.range_im Complex.range_im
+
+-- Porting note: refactored instance to allow `norm_cast` to work
+@[coe]
+def ofReal' (r : ℝ) : ℂ :=
```
Comment (jcommelin) [inline Mathlib/Data/Complex/Basic.lean:87]: Why can't this be called `ofReal` without the `'`?
Also, please rename all occurences of `of_real` below.

File: Mathlib/Data/Complex/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1379 @@
...
+  zsmul_succ' := by
+    intros; ext <;> simp [SubNegMonoid.zsmul_succ', add_mul, add_comm]
+  zsmul_neg' := by
+    intros ; ext <;> simp [zsmul_neg', add_mul]
+  add_assoc := by intros ; ext <;> simp [add_assoc]
+  zero_add := by intros ; ext <;> simp
+  add_zero := by intros ; ext <;> simp
+  add_comm := by intros ; ext <;> simp [add_comm]
+  add_left_neg := by intros ; ext <;> simp
+  }
```
Comment (jcommelin) [inline Mathlib/Data/Complex/Basic.lean:398]:
```suggestion
  add_left_neg := by intros ; ext <;> simp }
```

File: Mathlib/Data/Complex/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1379 @@
...
+      intros ; ext <;> simp [mul_re, mul_im] <;> ring
+    right_distrib := by
+      intros ; ext <;> simp [mul_re, mul_im] <;> ring
+    zero_mul := by intros ; ext <;> simp [zero_mul]
+    mul_zero := by intros ; ext <;> simp [mul_zero]
+    mul_assoc := by intros ; ext <;> simp [mul_assoc] <;> ring
+    one_mul := by intros ; ext <;> simp [one_mul]
+    mul_one := by intros ; ext <;> simp [mul_one]
+    mul_comm := by intros ; ext <;> simp [mul_comm] ; ring
+  }
```
Comment (jcommelin) [inline Mathlib/Data/Complex/Basic.lean:438]:
```suggestion
  { Complex.addGroupWithOne with
    zero := (0 : ℂ)
    add := (· + ·)
    one := 1
    mul := (· * ·)
    npow := @npowRec _ ⟨(1 : ℂ)⟩ ⟨(· * ·)⟩
    add_comm := by intros ; ext <;> simp [add_comm]
    left_distrib := by
      intros ; ext <;> simp [mul_re, mul_im] <;> ring
    right_distrib := by
      intros ; ext <;> simp [mul_re, mul_im] <;> ring
    zero_mul := by intros ; ext <;> simp [zero_mul]
    mul_zero := by intros ; ext <;> simp [mul_zero]
    mul_assoc := by intros ; ext <;> simp [mul_assoc] <;> ring
    one_mul := by intros ; ext <;> simp [one_mul]
    mul_one := by intros ; ext <;> simp [mul_one]
    mul_comm := by intros ; ext <;> simp [mul_comm] ; ring }
```

File: Mathlib/Data/Complex/Basic.lean (hunk 2 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:87]: There is another function called `ofReal` based on porting which is a homomorphism.
I will fix the `of_real` names.

Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:87]: Fixed the `of_real` in names.

File: Mathlib/Data/Complex/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,1376 @@
...
+-- Was warned that this is a syntactic tautology.
+@[simp, nolint synTaut]
+theorem ofReal_bit0 (r : ℝ) : ((bit0 r : ℝ) : ℂ) = bit0 r  :=
+  ext_iff.2 <| by simp [bit0]
+#align complex.of_real_bit0 Complex.ofReal_bit0
+
+-- Porting note: removed norm_cast attribute "rhs can't start with coe"
+-- Was warned that this is a syntactic tautology.
+@[simp,  nolint synTaut]
+theorem ofReal_bit1 (r : ℝ) : ((bit1 r : ℝ) : ℂ) = bit1 r :=
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:247]: same here, and note that `norm_cast` doesn't complain because the RHS doesn't start with a `↑` anymore (as above).
```suggestion
@[simp, norm_cast]
theorem ofReal_bit1 (r : ℝ) : ((bit1 r : ℝ) : ℂ) = bit1 (r : ℂ) :=
```

File: Mathlib/Data/Complex/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,1376 @@
...
+
+@[simp, norm_cast]
+theorem ofReal_sub (r s : ℝ) : ((r - s : ℝ) : ℂ) = r - s :=
+  ext_iff.2 <| by simp [ofReal']
+#align complex.of_real_sub Complex.ofReal_sub
+
+-- Porting note: removed `norm_cast` "rhs can't start with coe"
+-- Was warned that this is a syntactic tautology.
+@[simp, nolint synTaut]
+theorem ofReal_pow (r : ℝ) (n : ℕ) : ((r ^ n : ℝ) : ℂ) = r ^ n := by
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:696]: same here
```suggestion
@[simp, norm_cast]
theorem ofReal_pow (r : ℝ) (n : ℕ) : ((r ^ n : ℝ) : ℂ) = (r : ℂ) ^ n := by
```

File: Mathlib/Data/Complex/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,1376 @@
...
+theorem div_im (z w : ℂ) : (z / w).im = z.im * w.re / normSq w - z.re * w.im / normSq w := by
+  simp [div_eq_mul_inv, mul_assoc, sub_eq_add_neg, add_comm]
+#align complex.div_im Complex.div_im
+
+theorem conj_inv (x : ℂ) : conj x⁻¹ = (conj x)⁻¹ :=
+  star_inv' _
+#align complex.conj_inv Complex.conj_inv
+
+-- Porting note: removed `norm_cast`
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:775]: Why are you removing `norm_cast`? The linter does not complain.
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,1376 @@
...
+theorem ofReal_div (r s : ℝ) : ((r / s : ℝ) : ℂ) = r / s :=
+  map_div₀ ofReal r s
+#align complex.of_real_div Complex.ofReal_div
+
+-- Porting note: removed `norm_cast`
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:781]: same here?
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,1376 @@
...
+theorem int_cast_re (n : ℤ) : (n : ℂ).re = n := by rw [← ofReal_int_cast, ofReal_re]
+#align complex.int_cast_re Complex.int_cast_re
+
+@[simp, norm_cast]
+theorem int_cast_im (n : ℤ) : (n : ℂ).im = 0 := by rw [← ofReal_int_cast, ofReal_im]
+#align complex.int_cast_im Complex.int_cast_im
+
+@[simp, nolint synTaut]
+-- Was warned that this is a syntactic tautology.
+theorem ofReal_rat_cast (n : ℚ) : ((n : ℝ) : ℂ) = n := rfl
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:845]: this is labeled as a syntactic tautology because it is not the same statement as in Lean 3. To get the same statement, you would need the RHS to be `@RatCast.ratCast ℂ _ n`, but then the proof is not `rfl`. I think this is because the `Field` instance doesn't manually declare the `ratCast` bits and just uses the defaults, which have bad definitional properties. So, I'm not sure what we should do here.
```suggestion
@[simp, nolint synTaut]
-- Was warned that this is a syntactic tautology.
theorem ofReal_rat_cast (n : ℚ) : ((n : ℝ) : ℂ) = n := rfl
```

File: Mathlib/Data/Complex/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,1376 @@
...
+#align complex.of_real_rat_cast Complex.ofReal_rat_cast
+
+-- Porting note: removed `norm_cast`
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:849]: why? the linter doesn't complain

File: Mathlib/Data/Complex/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,1376 @@
...
+  rfl
+#align complex.abs_def Complex.abs_def
+
+theorem abs_apply {z : ℂ} : Complex.abs z = (normSq z).sqrt :=
+  rfl
+#align complex.abs_apply Complex.abs_apply
+
+-- Porting note: removed `norm_cast`
+@[simp]
+theorem abs_ofReal (r : ℝ) : Complex.abs r = |r| := by
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:951]: why? the linter doesn't complain

File: Mathlib/Data/Complex/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,1376 @@
...
+    div_le_iff (AbsoluteValue.pos Complex.AbsTheory.Complex.abs hz), one_mul, abs_re_le_abs]
+#align complex.abs_re_div_abs_le_one Complex.abs_re_div_abs_le_one
+
+theorem abs_im_div_abs_le_one (z : ℂ) : |z.im / Complex.abs z| ≤ 1 :=
+  if hz : z = 0 then by simp [hz, zero_le_one]
+  else by simp_rw [_root_.abs_div, abs_abs,
+    div_le_iff (AbsoluteValue.pos Complex.AbsTheory.Complex.abs hz), one_mul, abs_im_le_abs]
+#align complex.abs_im_div_abs_le_one Complex.abs_im_div_abs_le_one
+
+-- Porting note: removed `norm_cast` attribute
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1111]:
```suggestion
-- Porting note: removed `norm_cast` attribute because the RHS can't start with `↑`
```

File: Mathlib/Data/Complex/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,1376 @@
...
+@[simp]
+theorem abs_cast_nat (n : ℕ) : Complex.abs (n : ℂ) = n := by
+  rw [← ofReal_nat_cast, abs_of_nonneg (Nat.cast_nonneg n)]
+#align complex.abs_cast_nat Complex.abs_cast_nat
+
+-- Porting note: removed `norm_cast` attribute
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1118]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,1376 @@
...
+theorem le_def {z w : ℂ} : z ≤ w ↔ z.re ≤ w.re ∧ z.im = w.im :=
+  Iff.rfl
+#align complex.le_def Complex.ComplexOrder.le_def
+
+theorem lt_def {z w : ℂ} : z < w ↔ z.re < w.re ∧ z.im = w.im :=
+  Iff.rfl
+#align complex.lt_def Complex.ComplexOrder.lt_def
+
+-- Porting note: removed `norm_cast` attribute
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1159]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,1376 @@
...
+theorem real_le_real {x y : ℝ} : (x : ℂ) ≤ (y : ℂ) ↔ x ≤ y := by simp [le_def, ofReal']
+#align complex.real_le_real Complex.ComplexOrder.real_le_real
+
+-- Porting note: removed `norm_cast` attribute
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1164]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,1376 @@
...
+theorem real_lt_real {x y : ℝ} : (x : ℂ) < (y : ℂ) ↔ x < y := by simp [lt_def, ofReal']
+#align complex.real_lt_real Complex.ComplexOrder.real_lt_real
+
+-- Porting note: removed `norm_cast` attribute
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1169]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,1376 @@
...
+theorem zero_le_real {x : ℝ} : (0 : ℂ) ≤ (x : ℂ) ↔ 0 ≤ x :=
+  real_le_real
+#align complex.zero_le_real Complex.ComplexOrder.zero_le_real
+
+-- Porting note: removed `norm_cast` attribute
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1175]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,1376 @@
...
+theorem lim_abs (f : CauSeq ℂ Complex.abs) : lim (cauSeqAbs f) = Complex.abs (lim f) :=
+  lim_eq_of_equiv_const fun ε ε0 =>
+    let ⟨i, hi⟩ := equiv_lim f ε ε0
+    ⟨i, fun j hj => lt_of_le_of_lt (Complex.abs.abs_abv_sub_le_abv_sub _ _) (hi j hj)⟩
+#align complex.lim_abs Complex.lim_abs
+
+variable {α : Type _} (s : Finset α)
+
+-- Porting note: `norm_cast` is removed
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1353]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,1376 @@
...
+theorem ofReal_prod (f : α → ℝ) : ((∏ i in s, f i : ℝ) : ℂ) = ∏ i in s, (f i : ℂ) :=
+  RingHom.map_prod ofReal _ _
+#align complex.of_real_prod Complex.ofReal_prod
+
+-- Porting note: `norm_cast` is removed
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:1359]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Complex/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,1376 @@
...
+
+@[simp, norm_cast]
+theorem ofReal_add (r s : ℝ) : ((r + s : ℝ) : ℂ) = r + s :=
+  ext_iff.2 <| by simp [ofReal']
+#align complex.of_real_add Complex.ofReal_add
+
+-- Porting note: removed norm_cast attribute "rhs can't start with coe"
+-- Was warned that this is a syntactic tautology.
+@[simp, nolint synTaut]
+theorem ofReal_bit0 (r : ℝ) : ((bit0 r : ℝ) : ℂ) = bit0 r  :=
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:240]: I see. I did not know where the coercion had to be added.

File: Mathlib/Data/Complex/Basic.lean (hunk 8 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:778]: Done.

File: Mathlib/Data/Complex/Basic.lean (hunk 19 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:1356]: Done

File: Mathlib/Data/Complex/Basic.lean (hunk 14 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:1156]: Done

File: Mathlib/Data/Complex/Basic.lean (hunk 5 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:245]: Done

File: Mathlib/Data/Complex/Basic.lean (hunk 6 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:694]: Done

File: Mathlib/Data/Complex/Basic.lean (hunk 11 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:948]: May have complained before the fix and I did not notice it is fine.

File: Mathlib/Data/Complex/Basic.lean (hunk 9 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:842]: I had changed the proof to `rfl` as the original proof did not work. But the original proof is corrected for your corrected statement :)

File: Mathlib/Data/Complex/Basic.lean (hunk 10 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:846]: With upstream changes there are complaints again

File: Mathlib/Data/Complex/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Complex/Basic.lean:87]: Can you add a docstring that explains this naming?

File: Mathlib/Data/Complex/Basic.lean [hunk 21]
```diff
@@ -81,39 +82,53 @@ theorem range_im : range im = univ :=
...
+-- Was warned that this is a syntactic tautology.
+@[nolint synTaut]
+theorem ofReal_def (r : ℝ) : (r : ℂ) = ⟨r, 0⟩ :=
   rfl
-#align complex.of_real_def Complex.of_real_def
+#align complex.of_real_def Complex.ofReal_def
 
+-- @[simp]
+/- Porting note: `simp` attribute removed as the result could be proved
+by `simp only [Complex.mk.injEq, and_true]` -/
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:112]: This is out of date, since you didn't actually remove the `simp` attribute.

File: Mathlib/Data/Complex/Basic.lean [hunk 22]
```diff
@@ -81,39 +82,53 @@ theorem range_im : range im = univ :=
...
-  ⟨congr_arg re, congr_arg _⟩
-#align complex.of_real_inj Complex.of_real_inj
+theorem ofReal_inj {z w : ℝ} : (z : ℂ) = w ↔ z = w :=
+  ⟨congrArg re, by apply congrArg⟩
+#align complex.of_real_inj Complex.ofReal_inj
 
-theorem of_real_injective : Function.Injective (coe : ℝ → ℂ) := fun z w => congr_arg re
-#align complex.of_real_injective Complex.of_real_injective
+-- Porting note: made coercion explicit
+theorem ofReal_injective : Function.Injective (fun (r: ℝ) ↦ ↑(r : ℂ)) := fun _ _ => congrArg re
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:119]: Does this not work as
```suggestion
theorem ofReal_injective : Function.Injective ((↑) : ℝ → ℂ) := fun _ _ => congrArg re
```

File: Mathlib/Data/Complex/Basic.lean [hunk 23]
```diff
@@ -81,39 +82,53 @@ theorem range_im : range im = univ :=
...
+#align complex.of_real_injective Complex.ofReal_injective
 
-instance canLift : CanLift ℂ ℝ coe fun z => z.im = 0 where prf z hz := ⟨z.re, ext rfl hz.symm⟩
+-- Porting note: made coercion explicit
+instance canLift : CanLift ℂ ℝ (fun (r: ℝ) ↦ ↑(r : ℂ)) fun z =>
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:123]:
```suggestion
instance canLift : CanLift ℂ ℝ (↑) fun z =>
```

File: Mathlib/Data/Complex/Basic.lean [hunk 24]
```diff
@@ -192,6 +207,8 @@ theorem add_im (z w : ℂ) : (z + w).im = z.im + w.im :=
   rfl
 #align complex.add_im Complex.add_im
 
+section
+set_option linter.deprecated false
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:211]: This section should only be around the `bit` lemmas, not the rest of the file.

File: Mathlib/Data/Complex/Basic.lean [hunk 25]
```diff
@@ -342,39 +370,65 @@ defined in `data.complex.module.lean`. -/
...
-                  one := 1
-                  mul := (· * ·)
-                  npow := @npowRec _ ⟨(1 : ℂ)⟩ ⟨(· * ·)⟩ } <;>
-              intros <;>
-            try rfl <;>
-          apply ext_iff.2 <;>
-        constructor <;>
-      simp <;>
-    · first |ring1|ring_nf
+instance commRing : CommRing ℂ :=
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:414]: This should probably have a porting note too, since the instance above does.

File: Mathlib/Data/Complex/Basic.lean [hunk 26]
```diff
@@ -439,13 +495,14 @@ theorem conj_im (z : ℂ) : (conj z).im = -z.im :=
...
 
-theorem conj_of_real (r : ℝ) : conj (r : ℂ) = r :=
-  ext_iff.2 <| by simp [conj]
-#align complex.conj_of_real Complex.conj_of_real
+theorem conj_ofReal (r : ℝ) : conj (r : ℂ) = r :=
+  ext_iff.2 <| by simp [star]
+#align complex.conj_of_real Complex.conj_ofReal
 
 @[simp]
 theorem conj_i : conj i = -i :=
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:503]: Shouldn't this be `I` not `i`?

File: Mathlib/Data/Complex/Basic.lean [hunk 27]
```diff
@@ -477,7 +538,8 @@ theorem eq_conj_iff_im {z : ℂ} : conj z = z ↔ z.im = 0 :=
 
 -- `simp_nf` complains about this being provable by `is_R_or_C.star_def` even
 -- though it's not imported by this file.
-@[simp, nolint simp_nf]
+-- Porting note: linter `simp_nf` not found
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:541]: It's `simpNF` I think now

File: Mathlib/Data/Complex/Basic.lean [hunk 28]
```diff
@@ -486,7 +548,7 @@ theorem star_def : (Star.star : ℂ → ℂ) = conj :=
 
 
 /-- The norm squared function. -/
-@[pp_nodot]
+-- @[pp_nodot]
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:551]: This needs a porting note

File: Mathlib/Data/Complex/Basic.lean [hunk 29]
```diff
@@ -578,16 +649,16 @@ theorem im_sq_le_normSq (z : ℂ) : z.im * z.im ≤ normSq z :=
...
 
 theorem add_conj (z : ℂ) : z + conj z = (2 * z.re : ℝ) :=
-  ext_iff.2 <| by simp [two_mul]
+  ext_iff.2 <| by simp [two_mul, ofReal']
 #align complex.add_conj Complex.add_conj
 
 /-- The coercion `ℝ → ℂ` as a `ring_hom`. -/
 def ofReal : ℝ →+* ℂ :=
-  ⟨coe, of_real_one, of_real_mul, of_real_zero, of_real_add⟩
+  ⟨⟨⟨fun (x: ℝ) ↦ (↑x : ℂ), ofReal_one⟩, ofReal_mul⟩, ofReal_zero, ofReal_add⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:661]: Can you use `where` syntax here instead?

File: Mathlib/Data/Complex/Basic.lean [hunk 30]
```diff
@@ -639,41 +712,45 @@ theorem inv_def (z : ℂ) : z⁻¹ = conj z * ((normSq z)⁻¹ : ℝ) :=
...
 @[simp]
-theorem inv_im (z : ℂ) : z⁻¹.im = -z.im / normSq z := by simp [inv_def, division_def]
+theorem inv_im (z : ℂ) : z⁻¹.im = -z.im / normSq z := by simp [inv_def, division_def, ofReal']
 #align complex.inv_im Complex.inv_im
 
-@[simp, norm_cast]
-theorem of_real_inv (r : ℝ) : ((r⁻¹ : ℝ) : ℂ) = r⁻¹ :=
-  ext_iff.2 <| by simp
-#align complex.of_real_inv Complex.of_real_inv
+-- removed norm-cast
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:722]: Comments like this really need `porting note` in them. Why did you remove it?

File: Mathlib/Data/Complex/Basic.lean [hunk 31]
```diff
@@ -721,62 +807,70 @@ theorem normSq_div (z w : ℂ) : normSq (z / w) = normSq z / normSq w :=
...
 #align complex.int_cast_re Complex.int_cast_re
 
 @[simp, norm_cast]
-theorem int_cast_im (n : ℤ) : (n : ℂ).im = 0 := by rw [← of_real_int_cast, of_real_im]
+theorem int_cast_im (n : ℤ) : (n : ℂ).im = 0 := by rw [← ofReal_int_cast, ofReal_im]
 #align complex.int_cast_im Complex.int_cast_im
 
-@[simp, norm_cast]
-theorem of_real_rat_cast (n : ℚ) : ((n : ℝ) : ℂ) = n :=
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:835]: where did the norm_cast go?

File: Mathlib/Data/Complex/Basic.lean [hunk 32]
```diff
@@ -830,165 +925,196 @@ noncomputable def Complex.abs : AbsoluteValue ℂ ℝ
...
 
-theorem abs_le_abs_re_add_abs_im (z : ℂ) : abs z ≤ |z.re| + |z.im| := by
-  simpa [re_add_im] using abs.add_le z.re (z.im * I)
+-- Porting note: probably should be golfed
+theorem abs_le_abs_re_add_abs_im (z : ℂ) : Complex.abs z ≤ |z.re| + |z.im| := by
+  repeat (rw [← abs_ofReal])
+  conv =>
+    lhs
+    rw [← Complex.re_add_im z]
+  simpa [re_add_im] using Complex.abs.add_le z.re (z.im * i)
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:1067]: Can we instead try to work out why the old proof fails?

File: Mathlib/Data/Complex/Basic.lean [hunk 33]
```diff
@@ -830,165 +925,196 @@ noncomputable def Complex.abs : AbsoluteValue ℂ ℝ
...
 #align complex.abs_le_abs_re_add_abs_im Complex.abs_le_abs_re_add_abs_im
 
-theorem abs_le_sqrt_two_mul_max (z : ℂ) : abs z ≤ Real.sqrt 2 * max (|z.re|) (|z.im|) := by
+instance : NeZero (1 : ℝ) :=
+ ⟨by apply one_ne_zero⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:1071]: Please don't add new things like this without a porting note.

File: Mathlib/Data/Complex/Basic.lean (hunk 24 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:211]: Thanks. Fixed (I thought the part calling the bit lemmas had to be in it too)

File: Mathlib/Data/Complex/Basic.lean (hunk 25 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:414]: Added

File: Mathlib/Data/Complex/Basic.lean (hunk 22 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:119]: Thanks. Did not remember this notation.

File: Mathlib/Data/Complex/Basic.lean (hunk 23 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:123]: Fixed again.

File: Mathlib/Data/Complex/Basic.lean (hunk 21 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:112]: Thanks

File: Mathlib/Data/Complex/Basic.lean (hunk 26 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:503]: This has got misaligned with edits.

File: Mathlib/Data/Complex/Basic.lean (hunk 28 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:551]: Added

File: Mathlib/Data/Complex/Basic.lean (hunk 29 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:661]: Thanks. That is much better.

File: Mathlib/Data/Complex/Basic.lean (hunk 30 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:722]: Accidentally did not undo the remove `norm_cast` after coercions added.

File: Mathlib/Data/Complex/Basic.lean (hunk 31 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:835]: Accidental deletion (rather lack of restoring)

File: Mathlib/Data/Complex/Basic.lean (hunk 32 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:1067]: Generally I attribute proofs being longer to my lack of skill with tactics.

File: Mathlib/Data/Complex/Basic.lean (hunk 33 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:1071]: Oops. Was meant to fix the next proof. Will add porting note.

File: Mathlib/Data/Complex/Basic.lean [hunk 34]
```diff
@@ -81,39 +82,51 @@ theorem range_im : range im = univ :=
   im_surjective.range_eq
 #align complex.range_im Complex.range_im
 
+-- Porting note: refactored instance to allow `norm_cast` to work
+@[coe]
+def ofReal' (r : ℝ) : ℂ :=
```
Comment (jcommelin) [inline Mathlib/Data/Complex/Basic.lean:87]:
```suggestion
/-- The natural inclusion of the real numbers into the complex numbers.
The name `ofReal` is reserved for the bundled homomorphism. -/
@[coe]
def ofReal' (r : ℝ) : ℂ :=
```

File: Mathlib/Data/Complex/Basic.lean [hunk 35]
```diff
@@ -0,0 +1,1381 @@
...
+
+theorem ofReal_mul' (r : ℝ) (z : ℂ) : ↑r * z = ⟨r * z.re, r * z.im⟩ :=
+  ext (ofReal_mul_re _ _) (ofReal_mul_im _ _)
+#align complex.of_real_mul' Complex.ofReal_mul'
+
+/-! ### The imaginary unit, `i` -/
+
+
+/-- The imaginary unit. -/
+def i : ℂ :=
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean:302]: I will ask and change (or not) all occurences

File: Mathlib/Data/Complex/Basic.lean (hunk 27 above)
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean]: Fixed

File: Mathlib/Data/Complex/Basic.lean (hunk 35 above)
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Data/Complex/Basic.lean]: Capitalized that and corresponding theorem names

**Comment by ChrisHughes24** [comment]
bors merge
